US05200417
1-[(4-Hydroxyphenylmethyl)amino]-3,4-dihydroisoquinoline
1-Methylthio-3,4-dihydroisoquinoline hydroiodide (0.6 g, 0.00197 mol) and 4-hydroxybenzylamine (0.24 g, 0.00195 mol) were heated together at reflux temperature in ethanol (25 ml) for five hours. Effluent gases were passed through a CHLOROS trap. The mixture was then cooled and the ethanol evaporated off at reduced pressure. The tacky residue was dissolved in dilute HCl and the solution extracted with ethyl acetate. The clear aqueous solution was basified with 6N. NaOH and re-extracted with ethyl acetate. The latter organic extract was washed with water, dried and evaporated to dryness to give a white sticky solid. This was treated with ether and the ether decanted off. The residual solid was crystallised from absolute ethanol to give the title compound (0.11 g) as white crystals, m.p. 177°-179°.

reactant | 1-Methylthio-3,4-dihydroisoquinoline hydroiodide | 0.00197 mol, 0.6 g | I.CSC1=NCCC2=CC=CC=C12
reactant | 4-hydroxybenzylamine | 0.00195 mol, 0.24 g | OC1=CC=C(CN)C=C1 | C7H9NO
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-[(4-Hydroxyphenylmethyl)amino]-3,4-dihydroisoquinoline | 0.11 g | OC1=CC=C(C=C1)CNC1=NCCC2=CC=CC=C12 | C16H16N2O
